US09126945B2
Methyl 2-chloro-5-(methylamino)benzoate
55.0 g (296 mmol) of methyl 2-chloro-5-aminobenzoate and 49.1 g (356 mmol) of potassium carbonate are suspended in 500 ml of acetonitrile p.a. 22.1 ml (356 mmol) of methyl iodide are added dropwise to the reaction mixture. The suspension is then boiled under reflux for 3 hours. After cooling, the reaction mixture is filtered. The filtrate is diluted with water. The aqueous phase is extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulphate and filtered. The solvent is removed under reduced pressure on a rotary evaporator. The crude product is purified by column chromatography. This gives 30.0 g (51%) of methyl 2-chloro-5-(methylamino)benzoate.

reactant | methyl 2-chloro-5-aminobenzoate | 296 mmol, 55.0 g | ClC1=C(C(=O)OC)C=C(C=C1)N | C8H8ClNO2
reactant | potassium carbonate | 356 mmol, 49.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 356 mmol, 22.1 ml | CI | CH3I
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | Methyl 2-chloro-5-(methylamino)benzoate | ClC1=C(C(=O)OC)C=C(C=C1)NC | C9H10ClNO2
